US05248775
To a mixture of 3.6 g (10 mmol) of well-dried 3-iodo-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine in 40 mL of dimethylformamide are added 4.0 g (13.19 mmol) of dimethyl N-(4-ethynylbenzoyl)-L-glutamate, 0.38 g of copper (I) iodide, 3 mL of triethylamine, and 1.0 g of tetrakis-(triphenylphosphine)palladium. This mixture is stirred at ambient temperatures for two hours and then poured into 500 mL of water. The solid is collected by filtration, air dried, and then refluxed in 200 mL of methanol. The mixture is cooled and the solid collected by filtration, dissolved in two liters of 10% methanol in methylene chloride, and chromatographed over silica. Initial black bands are rechromatographed and the combined colorless bands from the first and second runs are evaporated to give 3.5 g of dimethyl N-[4-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate which can be purified further by recrystallization from 50% methanol in methylene chloride.

reactant | 3-iodo-4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidine | 10 mmol, 3.6 g | IN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O | C11H13IN4O2
reactant | dimethyl N-(4-ethynylbenzoyl)-L-glutamate | 13.19 mmol, 4.0 g | C(#C)C1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1 | C16H17NO5
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | water | 500 mL | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.38 g | [Cu]I
product | dimethyl N-[4-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate | 3.5 g | OC1=C2C(N=CN1C#CC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC(=C2)NC(C(C)(C)C)=O | C27H29N5O7
